US04421758
(a) 1-[Trans-β-(6-tosyloxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole
A solution of 5.10 g of 1-[trans-β-(6-hydroxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole in 40 ml of dry pyridine was stirred overnight at room temperature with 2.88 g of tosyl chloride. The reaction mixture was poured into water and extracted with diethyl ether. The ethereal extract was washed with aqueous sodium chloride and dried over anhydrous sodium sulphate, and the solvent was removed by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel eluted with a 20:20:1 by volume mixture of benzene, ethyl acetate and ethanol, to give 6.8 g of the title compound, as a colourless liquid.

reactant | 1-[trans-β-(6-hydroxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole | 5.10 g | OC[C@H]1CCC[C@@H](O1)OC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C17H20Cl2N2O3
reactant | tosyl chloride | 2.88 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-[Trans-β-(6-tosyloxymethyltetrahydropyran-2-yloxy)-2,4-dichlorophenethyl]imidazole | 6.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@H]1CCC[C@@H](O1)OC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C24H26Cl2N2O5S
